US07199147B2
A 50%-aqueous hydroxylamine solution (182 mg, 2.76 mmol) was added to a solution of 8-benzyl-8-azabicyclo[3.2.1]octan-3-one (538 mg, 2.50 mmol) in ethanol (5 ml) at room temperature and stirred at room temperature for 4 hours. The reaction mixture was concentrated and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol) to obtain 8-benzyl-8-azabicyclo[3.2.1]octan-3-one oxime (516 mg, 90%).

reactant | hydroxylamine | 2.76 mmol, 182 mg | NO | H3NO
reactant | 8-benzyl-8-azabicyclo[3.2.1]octan-3-one | 2.50 mmol, 538 mg | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=O | C14H17NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 8-benzyl-8-azabicyclo[3.2.1]octan-3-one oxime | 516 mg, 90% | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=NO | C14H18N2O
